US04792551
2-(4-Ethylbenzyl)benzoic acid (14 g) is added with stirring to sulphuric acid (200 ml) at 0° C. After 3 hours, the solution is poured into water and the product is extracted with ethyl acetate. The extract is washed with aqueous sodium carbonate, then dried and evaporated, to yield 2-ethylanthrone.

reactant | 2-(4-Ethylbenzyl)benzoic acid | 14 g | C(C)C1=CC=C(CC2=C(C(=O)O)C=CC=C2)C=C1 | C16H16O2
reactant | sulphuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
solvent | water | O | H2O
product | 2-ethylanthrone | C(C)C1=CC=2C(C3=CC=CC=C3CC2C=C1)=O | C16H14O
